* LM7171_fast : crude 1-pole surrogate + output stage
* pins:  +IN  -IN  V+  V-  OUT
.SUBCKT LM7171_FAST  +IN  -IN  VPLUS  VMINUS  OUT
* params (tweak if needed)
.param A0=1e5       ; DC open-loop gain
.param GBW=200e6    ; desired approximate GBW (Hz)
.param R_OUT=2      ; small output series resistance (ohm)
* internal nodes
.node N_INT N_OUT

* open-loop high DC gain source
EOPEN N_INT 0 VALUE={A0*V(+IN,-IN)}

* single dominant pole implemented as simple RC between N_INT -> N_OUT
RPOLE N_INT N_OUT 1k
CPOLE N_OUT 0 {1/(2*PI*GBW*1k)}    ; C = 1/(2π*GBW*R)  -> makes f_p ≈ GBW/A0 but is a crude approx

* output stage: low impedance buffer (R_OUT) to simulate drive
EOUT OUT_BUF 0 VALUE={V(N_OUT,0)}
ROUT OUT_BUF OUT {R_OUT}

* clamp output rails a little (soft) to avoid crazy numbers in sims
DPLUS OUT  VPLUS DMOD ; prevent runaway if used incorrectly
DMINUS VMINUS OUT DMOD

.MODEL DMOD D (IS=1e-15)
.ends LM7171_FAST
